US06057354
Preparation of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methylthiazolidine-2-yl)-4-methylsulfinyl-1H-pyrazole
A mixture of 1 g (2.5 mmol) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-acetyl-4-methylsulfinyl-1H-pyrazole, 0.284 g (2.5 mmol) of 2-aminoethanethiol hydrochloride, 348 microliters (2.50 mmol) of triethylamine, 50 mg of p-toluenesulfonic acid and 30 ml of benzene was heated to reflux with removal of water overnight. The mixture was successively cooled, filtered, evaporated, chromatographed so as to give 20 mg of the title compound as white solid; melting point 85° C.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-acetyl-4-methylsulfinyl-1H-pyrazole | 2.5 mmol, 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(C)=O)S(=O)C | C13H10Cl2F3N3O2S
reactant | 2-aminoethanethiol hydrochloride | 2.5 mmol, 0.284 g | Cl.NCCS
reactant | triethylamine | 2.50 mmol, 348 microliters | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methylthiazolidine-2-yl)-4-methylsulfinyl-1H-pyrazole | 20 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1(SCCN1)C)S(=O)C | C15H15Cl2F3N4OS2
